US04396772
(C) [[(2,2-Dimethyl-1-oxopropoxy)methoxy](4-phenylbutyl)phosphinyl]acetic acid
[[(2,2-Dimethyl-1-oxopropoxy)methoxy](4-phenylbutyl)phosphinyl]acetic acid, phenylmethyl ester (2.95 g, 6.4 mmol) in 75 ml of ethyl acetate was hydrogenated at 48 psi over 10% palladium on charcoal catalyst (0.4 g) for 1 hour. The mixture was filtered through Celite and evaporated to dryness to give the title acid as a colorless oil which solidified to a solid, melting point 48°-50° C.

reactant | [[(2,2-Dimethyl-1-oxopropoxy)methoxy](4-phenylbutyl)phosphinyl]acetic acid, phenylmethyl ester | 6.4 mmol, 2.95 g | CC(C(OCOP(=O)(CCCCC1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1)=O)(C)C | C25H33O6P
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
product | [[(2,2-Dimethyl-1-oxopropoxy)methoxy](4-phenylbutyl)phosphinyl]acetic acid | CC(C(OCOP(=O)(CCCCC1=CC=CC=C1)CC(=O)O)=O)(C)C | C18H27O6P
